US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole (40 mg, 0.15 mmol), potassium carbonate (42 mg, 0.30 mmol) and 2-chloroethyl methyl ether (83 μL, 0.91 mmol) in N,N-dimethylformamide (1 mL) was heated in a sealed vial at 150° C. for 5 minutes. The reaction was cooled, diluted with dichloromethane, washed with water (3×) and saturated brine, filtered and concentrated. Silica gel chromatography using hexanes:ethyl acetate:dichloromethane 1:1:2 followed by trituration with diethyl ether afforded 24 mg (50%) of 3-(2-pyridyl)-5-(3-cyano-5-(2-methoxyethoxy)phenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.87 (d, 1H), 8.23 (d, 1H), 8.17 (s, 1H), 8.04 (s, 1H), 7.91 (t, 1H), 7.49 (m, 1H), 7.45 (s, 1H), 4.27 (t, 2H), 3.81 (t, 2H), 3.48 (s, 3H).

reactant | 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole | 0.15 mmol, 40 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)O)C#N | C14H8N4O2
reactant | potassium carbonate | 0.30 mmol, 42 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl methyl ether | 0.91 mmol, 83 μL | COCCCl | C3H7ClO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(3-cyano-5-(2-methoxyethoxy)phenyl)-1,2,4-oxadiazole | 24 mg, 50% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)OCCOC)C#N | C17H14N4O3
